US07488831B2
Synthesis of 3-(2,4-dichlorophenyl)-5-hydroxy-1-methylpyrazole
Potassium ethyl malonate (22.1 g (0.13 mol)) was suspended in 200 mL of ethyl acetate, and 29.14 g (0.29 mol) of triethylamine and 13.7 g (0.14 mol) of magnesium chloride were sequentially added thereto with stirring under ice cooling. The resulting suspension liquid was stirred at 40° C. for 6 hours and again ice-cooled, and 20.9 g (0.1 mol) of 2,4-dichlorobenzoyl chloride was added dropwise thereto over 1 hour while keeping the reaction solution at 10° C. or less. After the dropwise addition, the stirring was continued at room temperature for 12 hours. Subsequently, 200 mL of 5% hydrochloric acid was added dropwise to the reaction solution, and the organic layer was separated. The obtained organic layer was washed twice with 50 mL of water and then with 30 mL of saturated brine, and the solvent was removed by distillation under reduced pressure. To the residue obtained by the concentration, 100 mL of ethanol was added. The resulting solution was cooled to 10° C. or less with stirring, and 13.1 g (0.1 mol) of an aqueous 35% methylhydrazine solution was added dropwise thereto over 1 hour. After the dropwise addition, the solution was stirred at room temperature for 1 hour and then at 80° C. for 3 hours. When the reaction was completed, the reaction solution was cooled to room temperature, 300 mL of water was added, and the produced crystal was collected by filtration. The crystal was washed twice with 50 mL of water and dried by a hot air drier to obtain 12.3 g (yield: 50.2%) of the title compound as a white crystal. 1H-NMR value (300 MHz, CDCl3): σ=7.53 (d; J=1.8 Hz, 1H), 7.2-7.4 (m, 2H), 5.68 (s, 1H), 3.54 (s, 3H) ppm.

reactant | Potassium ethyl malonate | 0.13 mol, 22.1 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | triethylamine | 0.29 mol, 29.14 g | C(C)N(CC)CC | C6H15N
reactant | magnesium chloride | 0.14 mol, 13.7 g | [Cl-].[Mg+2].[Cl-]
reactant | 2,4-dichlorobenzoyl chloride | 0.1 mol, 20.9 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | hydrochloric acid | 200 mL | Cl | ClH
reactant | methylhydrazine | CNN | CH6N2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 300 mL | O | H2O
product | 3-(2,4-dichlorophenyl)-5-hydroxy-1-methylpyrazole | 12.3 g, yield: 50.2% | ClC1=C(C=CC(=C1)Cl)C1=NN(C(=C1)O)C | C10H8Cl2N2O
